US06897231B2
B. 2-(5-(1H-1,2,4-Triazol-3-yl)-3-bromo-1H-indazolyl)perhydro-2H-pyran
The title compound was prepared by reacting 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (15.13 g, 46.67 mmol) with N,N-dimethylformamide dimethyl acetal (134 mL) and heating to 80° C. for 3 hours. The reaction was allowed to cool to room temperature, and condensed to a brown oil that was exposed to atmospheric conditions minimally. To the crude oil was added glacial acetic acid (220 mL) and hydrazine (23 mL), and then the mixture was heated to 115° C. for 1.5 hours. The reaction was allowed to cool to room temperature, and subsequently added to water (500 mL) resulting in the formation of a white precipitate which was filtered and dried in a vacuum oven (15.05 g, 93% yield): ES-MS (m/z) 350 [M+1]+. C. 2-13-Bromo-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazolyl}-perhydro-2H-pyran

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 46.67 mmol, 15.13 g | BrC1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C13H14BrN3O2
reactant | N,N-dimethylformamide dimethyl acetal | 134 mL | COC(N(C)C)OC | C5H13NO2
reactant | acetic acid | 220 mL | C(C)(=O)O | C2H4O2
reactant | hydrazine | 23 mL | NN | H4N2
solvent | water | 500 mL | O | H2O
product | 2-(5-(1H-1,2,4-Triazol-3-yl)-3-bromo-1H-indazolyl)perhydro-2H-pyran | 93% yield | N1N=C(N=C1)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)Br | C14H14BrN5O
